US07067658B2
2-Benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et. al. WO 99/01454) (774 mg, 2.81 mmol) and 2-methyl-5-chloro-4-methoxyphenylboronic acid (prepared as described in Speicher, A.; Kolz, J.; Sambanje, R. P. Synthesis, 2002, 17, 2503) (620 mg, 3.09 mmol) were treated substantially as described in Part A of Example 19a to give 1.15 g (47%) of 2-benzyloxy-4-(5-chloro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridine: 1H NMR (400 MHz, CDCl3) δ ppm 8.26 (d, J=5.1 Hz, 1 H), 7.45–7.42 (m, 2H), 7.39–7.30 (m, 3H), 7.13 (s, 1H), 6.82 (d, J=5.1 Hz, 1 H), 6.79 (s, 1 H), 5.54 (s, 2 H), 3.90 (s, 3H), 2.14 (s, 3H).

reactant | 2-Benzyloxy-4-chloro-3-nitro-pyridine | 2.81 mmol, 774 mg | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2-methyl-5-chloro-4-methoxyphenylboronic acid | CC1=C(C=C(C(=C1)OC)Cl)B(O)O | C8H10BClO3
product | 2-benzyloxy-4-(5-chloro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridine | 1.15 g, 47% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C(=C1)Cl)OC)C | C20H17ClN2O4
